US04673746
To a solution of 12 g of 7-chloro-6-hydroxy-3-(2,3-difluorophenyl)-1,2-benzisoxazole in 120 ml of DMF, 6.36 g of K2CO3 is added followed by 7.83 g of BrCH2CO2C2H5. The reaction is warmed at 60° C. for two hours and then allowed to stand for 18 hours. To the mixture 200 ml of water and 15 ml of 50% NaOH are added. The mixture is warmed at 90° C. for 90 minutes, poured into water and acidified. The product is extracted into ethylacetate which is dried over Na2SO4 and evaporated to give {[7-chloro-3-(2,3-difluorophenyl)-1,2-benzisoxazol-6-yl]oxy}acetic acid, mp 183°-187° C.

reactant | 7-chloro-6-hydroxy-3-(2,3-difluorophenyl)-1,2-benzisoxazole | 12 g | ClC1=C(C=CC=2C(=NOC21)C2=C(C(=CC=C2)F)F)O | C13H6ClF2NO2
reactant | K2CO3 | 6.36 g | C(=O)([O-])[O-].[K+].[K+]
reactant | BrCH2CO2C2H5 | 7.83 g | BrCC(=O)OCC | C4H7BrO2
reactant | NaOH | 15 ml | [OH-].[Na+]
solvent | DMF | 120 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | water | 200 ml | O | H2O
product | {[7-chloro-3-(2,3-difluorophenyl)-1,2-benzisoxazol-6-yl]oxy}acetic acid | ClC1=C(C=CC=2C(=NOC21)C2=C(C(=CC=C2)F)F)OCC(=O)O | C15H8ClF2NO4
